US05859007
To a stirred solution of 700 mg (2.78 mmol) 1-Phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2,4-dione in 15 mL DMF is added 144 mg (3.61 mmol, 1.3 equiv) 60 wt % NaH at ambient temperature and stirred 0.5 h. To this solution is added 750 mg (2.78 mmol, 1.0 equiv) 2-Bromo-N-isopropyl-N-p-tolyl-acetamide, prepared as in Part B, in 1 mL DMF and stirred 18 h at ambient temperature. The solvent is removed in vacuo and the residue taken into 50 mL EtOAc and washed successively with H2O (30 mL), 1N HCl (30 mL), satd. NaHCO3 (30 mL), and brine (30 mL), dried (MgSO4), filtered and concentrated in vacuo to a yellow oil. The crude product is purified by flash chromatography on 27 g silica gel eluted successively with EtOAc/Hexanes (2:3, 500 mL), (1:1, 100 mL). Appropriate fractions were combined and concentrated in vacuo to give 554 mg (1.25 mmol) of 2-(2,4-Dioxo-5-phenyl-2,3,4,5,-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-p-tolyl-acetamide as a white foam: 1H NMR (CDCl3, 300 MHz) δ7.43-7.07 (m, 12H), 6.90 (d, 1H, J=8.3), 5.03 (m, 1H), 4.37 (d, 1H, J=16.6), 4.04 (d, 1H, J=16.6), 3.58 (d, 1H, J=11.9), 3.49 (d, 1H, J=11.7), 2.41 (s, 3H), 1.10 (d, 6H, J=6.6); TLC Rf =0.27 (EtOAc/Hexanes, 1:1).

reactant | 1-Phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2,4-dione | 2.78 mmol, 700 mg | C1(=CC=CC=C1)N1C2=C(NC(CC1=O)=O)C=CC=C2 | C15H12N2O2
reactant | NaH | [H-].[Na+]
reactant | 2-Bromo-N-isopropyl-N-p-tolyl-acetamide | 2.78 mmol, 750 mg, 1.0 equiv | BrCC(=O)N(C1=CC=C(C=C1)C)C(C)C | C12H16BrNO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(2,4-Dioxo-5-phenyl-2,3,4,5,-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-p-tolyl-acetamide | 1.25 mmol, 554 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)C)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O3
